US07834181B2
2-Fluoro-8-(6-iodo-benzo[1,3]dioxol-5-ylmethyl)adenine:
A solution of 8-Benzo[1,3]dioxol-5-ylmethyl-2-fluoroadenine (50 mg, 0.17 mmol), NIS (94 mg, 0.4 mmol), TFA (20 mg, 13.4 L, 0.17 mmol) in CH2Cl2 (200 L) was stirred at room temperature overnight. After solvent removal, the desired product 18 (6 mg, 8.5%) was purified by silica gel column chromatography (CHCl3:EtOAc at 9:1 to 4:6). 1H NMR (400 MHz, DMSO-d6) 7.6 (bs, 2H), 7.38 (s, 1H), 6.95 (s, 1H), 6.03 (s, 2H), 4.12 (s, 2H); MS m/z 414.1 (M+H)+.

reactant | 8-Benzo[1,3]dioxol-5-ylmethyl-2-fluoroadenine | 0.17 mmol, 50 mg | O1COC2=C1C=CC(=C2)CC2=NC1=NC(=NC(=C1N2)N)F | C13H10FN5O2
reactant | NIS | 0.4 mmol, 94 mg | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | TFA | 0.17 mmol, 13.4 L, 20 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 200 L | C(Cl)Cl | CH2Cl2
product | 2-Fluoro-8-(6-iodo-benzo[1,3]dioxol-5-ylmethyl)adenine | FC1=NC(=C2NC(=NC2=N1)CC1=CC2=C(OCO2)C=C1I)N | C13H9FIN5O2
